US09145419B2
3E. 3-Iodo-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine
To a solution of 8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine, (480 mg, 1.48 mmol) in CHCl3 (15 mL) were added N-iodo succinimide (400 mg, 1.776 mmol) and TFA (0.34 g, 2.96 mmol). The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was quenched with saturated NaHCO3 and extracted with CH2Cl2. The combined organic layer was washed with water and brine, and dried over Na2SO4. The crude product was purified by BIOTAGE® (20-40% EtOAc/CH2Cl2; 1.2 L). 1H NMR (400 MHz, CDCl3) δ ppm 8.50-8.70 (3H, m), 7.90 (1H, s), 7.22-7.39 (4H, m), 7.06 (1H, d, J=4.53 Hz), 2.32 (3H, s); LC/MS: Rt=1.13 min. LC/MS (Condition A): 336.97.

reactant | 8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine | 1.48 mmol, 480 mg | CC1=C(C=NC=C1)C=1C=2N(N=CC1)C=CN2 | C12H10N4
reactant | N-iodo succinimide | 1.776 mmol, 400 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | TFA | 2.96 mmol, 0.34 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Iodo-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine | IC1=CN=C2N1N=CC=C2C=2C=NC=CC2C | C12H9IN4
